US04851413
A solution of 15.5 g (98.1 mmol) of 3-bromopyridine in 200 ml of ethyl ether was cooled to -78° C., to which 61.3 ml (98.1 mmol) of n-butyllithium (1.6M hexane solution) was added dropwise. For 20 minutes after completion of the addition, the mixture was stirred at the same temperature, and then a solution of 26.8 g (98.1 mmol) of 2,5-dimethoxy-3,4,6-trimethylbenzyl bromide in 100 ml of ethyl ether was added dropwise. After stirring at -78° C. to room temperature for 1 hour, the reaction mixture was diluted with water and extracted with ethyl acetate. Then the extract was extracted reversely with 2N-hydrochloric acid, and the water layer was made weakly alkaline with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate), to give 22.8 g (85.8%) of 3-(2,5-dimethoxy- 3,4,6-trimethylbenzyl)pyridine.

reactant | 3-bromopyridine | 98.1 mmol, 15.5 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | 98.1 mmol, 1.6M, 61.3 ml | C(CCC)[Li]
reactant | 2,5-dimethoxy-3,4,6-trimethylbenzyl bromide | 98.1 mmol, 26.8 g | COC1=C(CBr)C(=C(C(=C1C)C)OC)C | C12H17BrO2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-(2,5-dimethoxy- 3,4,6-trimethylbenzyl)pyridine | 22.8 g, 85.8% | COC1=C(CC=2C=NC=CC2)C(=C(C(=C1C)C)OC)C | C17H21NO2
